US06472526B1
55-1) Methyl 3-(Naphthalen-1-yl)-3-oxopropionate
10.2 g (59.9 mmol) of 1-acetonaphthone and 4.8 g (60% in mineral oi, 120 mmol) of sodium hydride were added to 100 ml of dimethylcarbonate and the mixture was refluxed for 24 hours. The solvent was removed under reduced pressure, 100 ml of 1N aqueous HCl solution was added to the residue, and the resulting mixture was extracted with 100 ml of ethyl acetate. The organic layer was washed with water(100 ml×3), dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography(eluent: n-hexane/ethyl acetate=90/10, v/v) to give 10.0 g (43.3 mmol, Yield 73%) of the title compound.

reactant | 1-acetonaphthone | 59.9 mmol, 10.2 g | CC(=O)C1=CC=CC2=CC=CC=C21 | C12H10O
reactant | sodium hydride | [H-].[Na+]
reactant | dimethylcarbonate | 100 ml | COC(OC)=O | C3H6O3
solvent | n-hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | Methyl 3-(Naphthalen-1-yl)-3-oxopropionate | 43.3 mmol, 10.0 g, Yield 73% | C1(=CC=CC2=CC=CC=C12)C(CC(=O)OC)=O | C14H12O3
